US08487108B2
Step 2. ethyl 2-((R)-1-(3-chlorophenyl)-1-((R)-piperidin-3-yl)ethoxy)acetate
A mixture of (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-ethoxy-2-oxoethoxy)ethyl)piperidine-1-carboxylate (0.0580 g, 0.136 mmol), 2 NHCl (50 mL), and CH3CN (50 mL) was vigorously stirred at rt for 24 h. After the reaction mixture was evaporated under reduced pressure, the crude product ethyl 2-((R)-1-(3-chlorophenyl)-1-((R)-piperidin-3-yl)ethoxy)acetate was directly used in the next step without further purification. MS ESI +ve m/z 328 (M+H).

reactant | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-ethoxy-2-oxoethoxy)ethyl)piperidine-1-carboxylate | 0.136 mmol, 0.0580 g | ClC=1C=C(C=CC1)[C@](C)(OCC(=O)OCC)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H32ClNO5
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | ethyl 2-((R)-1-(3-chlorophenyl)-1-((R)-piperidin-3-yl)ethoxy)acetate | ClC=1C=C(C=CC1)[C@](C)(OCC(=O)OCC)[C@H]1CNCCC1 | C17H24ClNO3
